US06875765B2
Step 7: 3-[4-Acetylamino-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid
A solution of 3-[4-acetylamino-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid tert-butyl ester (110 mg) in methylene chloride (6 mL) and trifluoroacetic acid (3 mL) was stirred at room temperature for 4 hours. The solvent was evaporated. The residue was triturated with ether and the resulting amorphous solid (58 mg) was collected by filtration.

reactant | 3-[4-acetylamino-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid tert-butyl ester | 110 mg | C(C)(C)(C)OC(CC(C=O)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)OCCC1=CC=CC2=CC=CC=C12)=O | C28H32N2O7S
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[4-Acetylamino-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid | C(C)(=O)NC1=CC(=C(C=C1)S(=O)(=O)NC(CC(=O)O)C=O)OCCC1=CC=CC2=CC=CC=C12 | C24H24N2O7S
